US04511573
Thionyl chloride (0.36 ml) is combined with 3-(6-hydroxyhexyl)-1methyl-2-(3-pyridyl)indole (1.37 g) at 0°. The mixture is then stirred at room temperature for 1 hour. Saturated aqueous sodium bicarbonate is added and the mixture is extracted with dichloromethane. The extract is washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield the crude chloride, 3-(6-chlorohexyl)-1-methyl-2-(3-pyridyl)indole. 3-(6-Chlorohexyl)-1-methyl-2-(3-pyridyl)indole (0.5 g) is combined with dimethyl malonate (792 mg), potassium carbonate (790 mg) and dimethylformamide (11.6 ml) and the mixture is heated at 80°-90° for 18 hours under nitrogen. The mixture is poured into ice water (80 ml), and acidified with 1N NCl and washed with ether. The aqueous layer is adjusted to pH 6 and extracted with ether which is then dried over anhydrous magnesium sulfate and concentrated to yield 3-[7,7-(bis-methoxycarbonyl)heptyl]-1-methyl-2 -(3-pyridyl)indole.

reactant | Thionyl chloride | 0.36 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(6-hydroxyhexyl)-1methyl-2-(3-pyridyl)indole | 1.37 g | OCCCCCCC1=C(N(C2=CC=CC=C12)C)C=1C=NC=CC1 | C20H24N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-(6-chlorohexyl)-1-methyl-2-(3-pyridyl)indole | ClCCCCCCC1=C(N(C2=CC=CC=C12)C)C=1C=NC=CC1 | C20H23ClN2
